US06660742B2
Acetic anhydride (4.0 mL, 42.39 mmol) was added to a solution of 2-[4-amino-2-nitronaphthalen-1-yl]ethanol (3.3 g, 14.21 mmol) in dry pyridine (33 mL) at room temperature and stirred for 2 hr. The mixture was diluted with AcOEt (100 mL). The organic layer was washed with H2O (30 mL), saturated aqueous NaHCO3 (30 mL), saturated aqueous NaCl (30 mL), and then the organic layer was dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography (33% AcOEt-Petroleum ether) afforded 2-[4-amino-2-nitronaphthalen-1-yl]ethyl acetate (1.0 g, 26%) as an orange solid.; mp 108-110 ° C.; 1H NMR (CDCl3, 500 MHz) δ 8.33 (d, 8.5, 1H), 7.84 (dd, 8.0, 0.5, 1H), 7.70 (dt, 7.5, 0.5, 1H), 7.64 (dt, 8.5, 1.5, 1H), 7.11 (s, 1H), 4.44 (t, 8.0, 2H), 4.38 (brs, 2H), 3.49 (t, 8.0, 2H), 2.06 (d, 0.5, 3H); FABMS (NBA) m/z 274 (M+), IR (neat) 3381, 1728, 1636, 1589, 1516, 1469, 1437, 1342, 1241, 1041, 754 cm−1.

reactant | Acetic anhydride | 42.39 mmol, 4.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-amino-2-nitronaphthalen-1-yl]ethanol | 14.21 mmol, 3.3 g | NC1=CC(=C(C2=CC=CC=C12)CCO)[N+](=O)[O-] | C12H12N2O3
solvent | pyridine | 33 mL | N1=CC=CC=C1 | C5H5N
solvent | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[4-amino-2-nitronaphthalen-1-yl]ethyl acetate | 1.0 g, 26% | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)N)[N+](=O)[O-] | C14H14N2O4
